US06211199B1
63.3 Synthesis of 1-benzoyl-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 1.6 using (1-(2-ethyoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine and 1-benzoyl-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine to give the title compound.

reactant | (1-(2-ethyoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
reactant | 1-benzoyl-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | C(C1=CC=CC=C1)(=O)N1CC(CC1)(CCOS(=O)(=O)C)C1=CC=CC=C1 | C20H23NO4S
product | 1-benzoyl-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | C(C1=CC=CC=C1)(=O)N1CC(CC1)(C1=CC=CC=C1)CCN1CCC(CC1)NC1=NC2=C(N1CCOCC)C=CC=C2 | C35H43N5O2
